US04711877
5.0 G of L-penicillamine (33.6 mmol) was dissolved in 5 ml of water containing 1.3 g of sodium hydroxide (33.6 mmol, 1 eq.). To this was added 10 ml of tert.-butanol. 8.0 G of di-tert.-butylcarbonate (37 mmol, 1.1 eq.) was added dropwise over 30 minutes. The reaction was allowed to proceed at room temperature for 6 hours. The turbid reaction mixture was diluted with 50 ml of water and extracted with hexane (3×50 ml), acidified to pH 3 with solid sodium bisulfate and extracted with ethyl acetate (3×50 ml). The combined ethyl acetate extracts were dried over sodium sulfate and, then, evaporated to dryness, yielding 8.0 g of Boc-L-penicillamine (96%): nmr (CDCl3) 1.45 ppm and 1.57 ppm, over-lapping singlets, t-butyl and beta-dimethyl protons, 4.32 ppm, br. doublet, alpha proton.

reactant | L-penicillamine | 33.6 mmol | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 33.6 mmol, 1 eq. | [OH-].[Na+]
reactant | tert.-butanol | 10 ml | C(C)(C)(C)O | C4H10O
reactant | di-tert.-butylcarbonate | 37 mmol, 1.1 eq. | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | water | 5 ml, 1.3 g | O | H2O
solvent | water | 50 ml | O | H2O
product | Boc-L-penicillamine | 8.0 g, 96% | C(=O)(OC(C)(C)C)N[C@@H](C(C)(C)S)C(=O)O | C10H19NO4S
